US07700607B2
To a resealable tube charged with potassium phosphate (0.588 g, 2.77 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (0.275 g, 1.02 mmol), 1-(1-acetyl-3,3-dimethylindolin-6-yl)-3-iodo-4-methylpyridin-2(1H)-one (0.390 g, 0.924 mmol), S-Phos (0.0227 g, 0.0554 mmol), and palladium acetate (0.0104 g, 0.0462 mmol) was added isopropyl alcohol (6.0 mL) and water (2 mL). The mixture was heated at 75° C. After 5 hrs, the mixture was diluted with EtOAc and water. The organic fraction was washed with brine and dried with sodium sulfate. After concentration in vacuo, the resulting solid was adsorbed onto silica gel and purified by silica gel chromatography using 2-10% MeOH in CH2Cl2 to afford 1-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-3-(2-amino-6-quinazolinyl)-4-methyl-2(1H)-pyridinone as a white solid. M+H+=440.2.

reactant | potassium phosphate | 2.77 mmol, 0.588 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 1.02 mmol, 0.275 g | CC1(OB(OC1(C)C)C=1C=C2C=NC(=NC2=CC1)N)C | C14H18BN3O2
reactant | 1-(1-acetyl-3,3-dimethylindolin-6-yl)-3-iodo-4-methylpyridin-2(1H)-one | 0.924 mmol, 0.390 g | C(C)(=O)N1CC(C2=CC=C(C=C12)N1C(C(=C(C=C1)C)I)=O)(C)C | C18H19IN2O2
reactant | S-Phos | 0.0554 mmol, 0.0227 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | palladium acetate | 0.0462 mmol, 0.0104 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2 mL | O | H2O
solvent | isopropyl alcohol | 6.0 mL | C(C)(C)O | C3H8O
product | 1-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-3-(2-amino-6-quinazolinyl)-4-methyl-2(1H)-pyridinone | C(C)(=O)N1CC(C2=CC=C(C=C12)N1C(C(=C(C=C1)C)C=1C=C2C=NC(=NC2=CC1)N)=O)(C)C | C26H25N5O2
